US04046785
A 500 ml. electromagnetically stirred glass reactor was charged with 5.0 g (0.0168 mole) of 1-nitro-2-carboxyanthraquinone, 100 g of a 4% aqueous solution of sodium hydroxide and 0.25 g of 5% palladium-carbon. The inside of the reactor was purged with hydrogen, and the 1-nitro-2-carboxyanthraquinone was hydrogenated at 50° C. with stirring. In 5 hours, 0.0504 mole of hydrogen was absorbed, whereupon the reaction was stopped. The reaction mixture was filtered to separate the catalyst. The filtrate was oxidized with air with stirring at 20° to 30° C. for 2 hours, and then neutralized with 20% sulfuric acid to a pH of 2 to 3. The crystals precipitated were filtered, washed with water, and dried to afford 4.1 g of 1-amino-2-carboxyanthraquinone in a yield of 91.3%.

reactant | 1-nitro-2-carboxyanthraquinone | 0.0168 mole, 5.0 g | [N+](=O)([O-])C1=C(C=CC=2C(C3=CC=CC=C3C(C12)=O)=O)C(=O)O | C15H7NO6
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrogen | 0.0504 mole | [H][H] | H2
catalyst | palladium-carbon | 0.25 g | [C].[Pd]
product | 1-amino-2-carboxyanthraquinone | 4.1 g, yield of 91.3% | NC1=C(C=CC=2C(C3=CC=CC=C3C(C12)=O)=O)C(=O)O | C15H9NO4
